US07589068B2
To 4-amino-2-chloropyridine (30.0 g, 243 mmol) in CH2Cl2 (500 mL) was added triethylamine (38 mL), di-tert-butyl-dicarbonate (58.0 g), and DMAP (10.0 g). The reaction mixture was stirred overnight, concentrated in vacuo, and chromatographed on silica gel with 1:1 hexanes/EtOAc. The resulting solid was triturated with CH2Cl2/EtOAc (1:1) to give N-BOC-4-amino-2-chloropyridine. 1H NMR: (500 MHz, CDCl3) δ 8.19 (d, 1H), 7.53 (d, 1H), 7.25 (br s, 1H), 7.20 (dd, 1H), 5.80 (s, 1H), 1.52 (s, 9H).

reactant | 4-amino-2-chloropyridine | 243 mmol, 30.0 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | triethylamine | 38 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 58.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-BOC-4-amino-2-chloropyridine | C(=O)(OC(C)(C)C)N1C(C=C(C=C1)N)Cl | C10H15ClN2O2
